### PR TITLE
test and docs for `corres` method + slight tweaks for the same

### PR DESCRIPTION
**Pull request by lsf37**
- enforce (no_asm) more strongly for corres term rewriting in `corres`
- add an additional breakpoint for debugging `corres_cleanup`
- add a tutorial for the `corres` method, which also serves as a longer test case

### CODE REVIEW

**Comment by lsf37** [comment]
Tagging @Xaphiosis just in case he wants to read through this (but completely fine to ignore)

**Review by michaelmcinerney — APPROVED** [review]
The tutorial is very helpful, thanks. I hadn't come across the `apply_debug` feature before.

File: lib/test/Corres_Test.thy [hunk 1]
```diff
@@ -0,0 +1,306 @@
...
+   simp rules for side conditions etc have yet to be figured out. The following proofs
+   demonstrates this process. *)
+lemma "corres (=) P \<top> (do x \<leftarrow> f; g x od) (do y \<leftarrow> f'; g' y od)"
+  (* We begin by just invoking "corres" *)
+  apply corres
+    (* In this case, not much has happened yet, corres has only produced schematic preconditions.
+       However, we can see that f and f' are the heads of both sides, and searching with find_theorems
+       for a corres rule that mentions those two turns up the rule "f". We provided it to the corres
+       method. At this point we can either go back and add it to the previous line, or we just
+       add a new invocation. The process is very similar to using wpsimp. *)
```
Comment (corlewis) [inline lib/test/Corres_Test.thy:64]: Tiny nitpick. I'm not certain that I've kept the meaning you intended, although that does suggest it would be good to change it in some way.
```suggestion
       for a corres rule that mentions those two turns up the rule "f", which we can provide to the corres
       method. At this point we can either go back and add it to the previous line, or we just
       add a new invocation. The process is very similar to using wpsimp. *)
```

File: lib/test/Corres_Test.thy [hunk 2]
```diff
@@ -0,0 +1,306 @@
...
+    apply (corres corres: f)
+      (* We see that f has been split off, and we now have a goal for g. Same process as above finds
+         the corresponding rule. *)
+      apply (corres corres: g)
+      (* This solves the corres goal, but leaves over the side condition of the "g" rule. We can
```
Comment (corlewis) [inline lib/test/Corres_Test.thy:69]:
```suggestion
      (* This solves the corres goal, but leaves the side condition of the "g" rule. We can
```

File: lib/test/Corres_Test.thy [hunk 3]
```diff
@@ -0,0 +1,306 @@
...
+  finish
+  done
+
+(* Rewriting corres terms *)
+lemma "corres (=) P \<top> (do x \<leftarrow> f; g x od) (do y \<leftarrow> liftM t f'; g' y od)"
+  (* In this goal, corres will stop at liftM without finding a rule to apply. Unfolding
+     liftM_def exposes the bare f' to the toplevel and lets it apply the existing "f" rule.
+     The "t" rewrite happens to solve the now more complex side condition for g.
+     Unfolding liftM_def is generally preferred to the liftM corres simp rules, because
+     these transform schematic guards in ways that later hinder unification. *)
```
Comment (corlewis) [inline lib/test/Corres_Test.thy:171]: This is more of a comment on the `corres` method and not for this PR, but this is a bit unintuitive for me. Normally I would try to avoid unfolding low-level definitions like `liftM` and instead use explicit rules that transform the various parameters and guards appropriately.

**Review by corlewis — APPROVED** [review]
Very nice documentation/tutorial! It's cool to see an actual use of `apply_debug` like that, it's not something I ever think of.

File: proof/refine/RISCV64/ArchAcc_R.thy [hunk 4]
```diff
@@ -334,8 +334,9 @@ lemma corres_cross_over_pte_at:
   done
 
 lemma getObject_PTE_corres[corres]:
-  "corres pte_relation' (pte_at p and pspace_aligned and pspace_distinct) \<top>
-          (get_pte p) (getObject p)"
+  "p = p' \<Longrightarrow>
+   corres pte_relation' (pte_at p and pspace_aligned and pspace_distinct) \<top>
+          (get_pte p) (getObject p')"
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/ArchAcc_R.thy:339]: why not use `[@lift_corres_args]` on original lemma?

File: lib/Corres_Method.thy [hunk 5]
```diff
@@ -42,6 +42,9 @@ method is_hoare_schematic_post =
   succeeds \<open>wp_pre, rule hoare_post_False hoareE_post_False\<close>,
   succeeds \<open>wp_pre, rule wp_post_taut wp_post_tautE\<close>
 
+(* Succeed if wpsimp or wp can safely be applied *)
+method is_safe_wp = is_wp, fails \<open>is_hoare_schematic_post\<close>
```
Comment (Xaphiosis) [inline lib/Corres_Method.thy:46]: I think the changes in this file are in the wrong commit.

File: lib/Corres_Method.thy [hunk 6]
```diff
@@ -161,6 +161,10 @@ method corres
 
 section \<open>Corres rule setup\<close>
 
+(* Avoid using equations in the assumptions. subst_all gets around (no_asm_use) in some cases,
+   which we don't want. *)
+lemmas [corres_no_simp] = subst_all
```
Comment (Xaphiosis) [inline lib/Corres_Method.thy:169]: I don't understand this one. I also don't understand how it is added in this PR, but its use seems to already appear before this PR.

File: lib/test/Corres_Test.thy [hunk 7]
```diff
@@ -0,0 +1,306 @@
...
+
+  fixes Q g g' t
+  assumes g: "\<And>x x'::nat. x = t x' \<Longrightarrow> corres_underlying sr nf nf' (=) Q \<top> (g x) (g' x')"
+  assumes t: "\<And>x. t x = x"
+
+  fixes P
+  assumes Q: "\<lbrace>P\<rbrace> f \<lbrace>\<lambda>_. Q\<rbrace>"
+
+  fixes h h'
+  assumes h: "corres_underlying sr nf nf' (=) \<top> \<top> h h"
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:28]: shouldn't this be `h h'`?

File: lib/test/Corres_Test.thy [hunk 8]
```diff
@@ -0,0 +1,306 @@
...
+begin
+
+lemma "corres (=) P \<top> (do x \<leftarrow> f; g x od) (do y \<leftarrow> f'; g' y od)"
+  by corres
+
+end
+
+(* During development, the rules needed are often not declared [corres] yet or the right
+   simp rules for side conditions etc have yet to be figured out. The following proofs
+   demonstrates this process. *)
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:56]: `proof demonstrates` or `proofs demonstrate`

File: lib/test/Corres_Test.thy [hunk 9]
```diff
@@ -0,0 +1,306 @@
...
+lemma "corres (=) P \<top> (do x \<leftarrow> f; g x od) (do y \<leftarrow> f'; g' y od)"
+  (* We begin by just invoking "corres" *)
+  apply corres
+    (* In this case, not much has happened yet, corres has only produced schematic preconditions.
+       However, we can see that f and f' are the heads of both sides, and searching with find_theorems
+       for a corres rule that mentions those two turns up the rule "f". We provided it to the corres
+       method. At this point we can either go back and add it to the previous line, or we just
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:63]: so much just

File: lib/test/Corres_Test.thy (hunk 1 above)
Comment (Xaphiosis) [reply lib/test/Corres_Test.thy:64]: agreed

File: lib/test/Corres_Test.thy [hunk 10]
```diff
@@ -0,0 +1,306 @@
...
+  apply corres
+    apply (corres corres: f g simp: t wp: Q)
+    (* This will still leave the final implication, because we have produced that implication
+       outside this subgoal. Merging the two corres invocations above will attempt the final
+       implications automatically as well. *)
+   apply simp
+  apply simp
+  done
+
+
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:108]: double empty lines usually go between sections of some kind, but there isn't anything like that between the setup and start of examples

File: lib/test/Corres_Test.thy [hunk 11]
```diff
@@ -0,0 +1,306 @@
...
+(* More controlled single-stepping. *)
+
+(* Sometimes invoking "corres" does too much or too little.
+   Too much can occur when the method applies a rule we didn't know is in the [corres] set and
+   that leaves us with a strange side condition to solve. Or we may have added an unsafe,
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:113]: that leaves -> which leaves?

File: lib/test/Corres_Test.thy [hunk 12]
```diff
@@ -0,0 +1,306 @@
...
+   not-really-terminal rule to [corres] and now we are getting an unprovable goal. Too little
+   can occur when the method refuses to split off the head terms even though it looks like a
+   terminal corres rule should apply. For these cases, we can take apart some of the internal
+   steps like this: *)
+lemma "corres (=) P \<top> (do x \<leftarrow> f; g x od) (do y \<leftarrow> f'; g' y od)"
+  (* Controlled way to just introduce schematic preconditions and the final implication *)
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:119]: I'd prefer a subset of the "just" in this file switch to "only"

File: lib/Corres_Method.thy (hunk 6 above)
Comment (corlewis) [reply lib/Corres_Method.thy:169]: I was confused by this as well. My understanding is that `subst_all` was causing simplification problems before this PR. The change here is to add it to the `corres_no_simp` set, which is then passed to `simp del` inside of the `corres` method (https://github.com/seL4/l4v/blob/555d1a49427171c7283be5a26bd369bef4d028d8/lib/Corres_Method.thy#L130C59)

File: lib/test/Corres_Test.thy [hunk 13]
```diff
@@ -0,0 +1,306 @@
...
+       will give us the goal the terminal corres rule is tried on: *)
+    apply corres_split
+       (* Trying out "rule f" does work now -- if it didn't we could debug that and find out why *)
+       apply (succeeds \<open>rule f\<close>)
+       (* Turns out we just forgot to declare it, so we add it manually, and the corres method now
+          succeeds on the subgoal *)
+       apply (corres corres: f)
+      (* For the next goal, we have only g. Maybe we want to debug why corres doesn't solve the
+         application of the "g" rule automatically, or where the "x = t x" side condition comes from.
+         To do that, we can just manually apply the rule: *)
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:132]: 4th "just" in this lemma, are you trying to make me cry? :)

File: lib/Corres_Method.thy (hunk 6 above)
Comment (Xaphiosis) [reply lib/Corres_Method.thy:169]: Ahh, so my brain blanked on this alternate syntax to `declare subst_all[corres_no_simp]`, thanks for the clarification!

File: lib/test/Corres_Test.thy [hunk 14]
```diff
@@ -0,0 +1,306 @@
...
+lemma "corres (=) P \<top> (do x \<leftarrow> f; g x od) (do y \<leftarrow> f'; g' y od)"
+  (* There is also a corres_cleanup breakpoint for further data *)
+  apply_debug (trace) (tags "corres", "corres_cleanup") (corres corres: f g simp: t wp: Q)
+  continue (* guard implication *)
+    continue (* application of f *)
+      continue (* application of g, showing side condition *)
+  continue (* solve side condition (separate goal) *)
+     continue (* wpsimp+, which happens to solve all remaining goals *)
+  finish
+  done
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:163]: very cool, thank you for these breakpoint examples

File: lib/test/Corres_Test.thy (hunk 3 above)
Comment (Xaphiosis) [reply lib/test/Corres_Test.thy:171]: It possibly suggests a comment to add above the liftM corres simp rules

File: lib/Corres_Method.thy (hunk 6 above)
Comment (corlewis) [reply lib/Corres_Method.thy:169]: Yeah, it isn't a syntax that I've consciously used before. Based on the following examples in this file it looks like a more compact way to simultaneously give multiple lemmas the same attribute, although we would have to be careful that we aren't modifying any of them and putting unnamed lemmas into attribute sets.

File: lib/test/Corres_Test.thy [hunk 15]
```diff
@@ -0,0 +1,306 @@
...
+     of terminal corres steps, not to the corres terms themselves. Usually those simp rules
+     are fairly distinct and side-condition rules don't do anything to the corres terms, so
+     it's fine to just put them in the "simp:" section, but occasionally we want more control. *)
+  by (corres corres: f g simp: liftM_def term_simp: t wp: Q)
+
+(* Dealing with asserts and symbolic execution *)
+lemma "corres (=) P \<top> (do s \<leftarrow> get; assert (P s); x \<leftarrow> f; g x od) (do y \<leftarrow> f'; g' y od)"
+  (* Here we'd like to do symbolic execution on "get" and then use the unsafe rule
+     corres_assert_gen_asm_l for the assert. Often it is good enough to just locally
+     provide them as [corres], but just adding corres_symb_exec_l here for instance will
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:186]: Provide "them"? Which them? Also "just locally provide ..., but just ..." ...

File: lib/test/Corres_Test.thy [hunk 16]
```diff
@@ -0,0 +1,306 @@
...
+     go too far. It will try to execute all of get, assert, and f: *)
+  apply (corres corres: corres_symb_exec_l[where P=P])
+  (* unsolvable *)
+  oops
+
+lemma "corres (=) P \<top> (do s \<leftarrow> get; assert (P s); x \<leftarrow> f; g x od) (do y \<leftarrow> f'; g' y od)"
+  (* We can provide the same rule as a fallback rule. This means it will be tried only when
+     no other rule has worked. This lets f and corres_assert_gen_asm_l go first. *)
+  by (corres corres: corres_assert_gen_asm_l f g
+             fallback: corres_symb_exec_l[where P=P]
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:196]: nice, I really wanted to be able to do this and am very glad we can

File: lib/test/Corres_Test.thy [hunk 17]
```diff
@@ -0,0 +1,306 @@
...
+(* Providing something like fastforce can lead to non-termination or slowdown, because the method
+   will be tried for any side condition. If there is a distinctive goal pattern that can
+   distinguish when the cleanup method should be run, you can use "match" to restrict the method: *)
+lemma "corres (=) P \<top> (do x \<leftarrow> f; g x; h od) (do y \<leftarrow> f'; g' y; h od)"
+  by (corres' \<open>match conclusion in "x = t y" for x y \<Rightarrow> \<open>fastforce simp: t\<close>\<close> corres: f g h wp: Q)
+
+
+(* Form of [corres] rules *)
+
+(* The method expects terminal corres rule to instantiate return relation and guards.
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:242]: rules?

File: lib/test/Corres_Test.thy [hunk 18]
```diff
@@ -0,0 +1,306 @@
...
+   It also expects distinct variables for the abstract and concrete side and tries hard to
+   not accidentally mix these by rewriting corres terms with assumptions.
+
+   For instance, it would be tempting to write the "g" rule as follows:
+*)
+lemma g': "corres (=) Q \<top> (g x) (g' x)"
+  by (simp add: g t)
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:249]: would adding an example using `[@lift_corres_args]` be of interest around here (if it's in scope)?

File: lib/test/Corres_Test.thy [hunk 19]
```diff
@@ -0,0 +1,306 @@
...
+
+
+(* Form of [corres] rules *)
+
+(* The method expects terminal corres rule to instantiate return relation and guards.
+   It also expects distinct variables for the abstract and concrete side and tries hard to
+   not accidentally mix these by rewriting corres terms with assumptions.
+
+   For instance, it would be tempting to write the "g" rule as follows:
+*)
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:247]: `*)` to prev line for consistency

File: lib/test/Corres_Test.thy [hunk 20]
```diff
@@ -0,0 +1,306 @@
...
+   instead wherever possible, because it provides some protection against common pitfalls.
+
+   Occasionally it is useful to interleave with tactics that work on specific kinds of goals
+   only, e.g. a clarsimp on goals that are not corres goals. For this, the predicate methods
+   is_corres, is_wp, and is_safe_wp are available. These do not change the proof state, but they
+   fail when their predicate does not hold.
+
+   is_corres succeeds on corres goals only
+   is_wp succeeds on wp goals only (valid, validE, no_fail)
+   is_safe_wp succeeds only on wp goals without schematic post condition (where wpsimp is not safe)
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:286]: `a` schematic postcondition?

File: lib/test/Corres_Test.thy [hunk 21]
```diff
@@ -0,0 +1,306 @@
...
+
+   Boolean combinations of predicates and be achieved with "," "|" and "fails" for "and", "or", and
+   "not".
+*)
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:290]: would `Boolean combinations of predicates can be obtained using "," (and), "|" (or) and "fails" (not).` be better? In any case the first `and` should probably be `can`.

File: lib/test/Corres_Test.thy [hunk 22]
```diff
@@ -0,0 +1,306 @@
...
+
+(* Example for predicate methods *)
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:292]: for -> of?

File: lib/test/Corres_Test.thy [hunk 23]
```diff
@@ -0,0 +1,306 @@
...
+lemma "corres (=) P \<top>
+              (do x \<leftarrow> case z of None \<Rightarrow> f | Some x' \<Rightarrow> do return x'; f od; g x od)
+              (do y \<leftarrow> f'; g' y od)"
+  (* Do case distinction and apply the corres method only to the corres goals: *)
+  apply (corres_cases; (is_corres, corres corres: f g)?)
+         (* Find all safe wp goals and run wpsimp on them *)
+         apply (all \<open>(is_safe_wp, wpsimp wp: Q)?\<close>)
+     (* There should now only be non-corres and non-wp goals left -- fail if that is not the case *)
```
Comment (Xaphiosis) [inline lib/test/Corres_Test.thy:300]: `Only non-corres and non-wp goals should remain`?

**Review by Xaphiosis — APPROVED** [review]
Good examples, definitely very helpful. There's some confusion about which commit some changes are in, and I left a bit of feedback on the text in comments along with  begging for a review of `just` frequency. Might also make sense to use sections in the test file, I find it hard to tell in places what is a section header and what isn't.

File: lib/Corres_Method.thy (hunk 6 above)
Comment (Xaphiosis) [reply lib/Corres_Method.thy:169]: Mm. Yes, I think it's because we normally either see `[simp]` as the attribute, or we see multiple lemmas. Seeing `[corres_no_simp]` and only one lemma threw me off, but it's the more stable notation if we want to add more to the set in future. Regarding the modifying, I think `declare` would have the same problem. I guess you could remove it from the set using the same modified thm.

File: lib/test/Corres_Test.thy (hunk 3 above)
Comment (lsf37) [reply lib/test/Corres_Test.thy:171]: Yes, a comment for the rule would make sense. Will do.

It's not really anything to do with the method, it's just that the rule is not a real wp-style rule, because it transforms the relation in the wrong way.

We're probably going to hit a few more such cases, which we haven't noticed so far, because we've always manually worked around them or just wondered why stuff didn't work and why we needed to instantiate things manually, but then moved on without investigating deeply.

File: proof/refine/RISCV64/ArchAcc_R.thy (hunk 4 above)
Comment (lsf37) [reply proof/refine/RISCV64/ArchAcc_R.thy:339]: I'm mostly trying to establish this form as the canonical form for writing corres lemmas to reduce friction. We could also state other lemmas with object implication and then use them with `rule_format`, but we don't do that, because it would be annoying to use `[rule_fromat]` everywhere.

File: lib/Corres_Method.thy (hunk 6 above)
Comment (lsf37) [reply lib/Corres_Method.thy:169]: I can confirm both the syntax and the intention discussed in this thread. I'll mark it as resolved, but if you want me to do anything to help clear up confusion, let me know.

File: lib/test/Corres_Test.thy (hunk 7 above)
Comment (lsf37) [reply lib/test/Corres_Test.thy:28]: Well spotted.

File: lib/test/Corres_Test.thy (hunk 18 above)
Comment (lsf37) [reply lib/test/Corres_Test.thy:249]: I had the same idea, but it's not in scope yet (it's declared for the CorresK method, I think). We could refactor all that a bit more, but I'd prefer to leave that one for another time.

File: lib/test/Corres_Test.thy (hunk 21 above)
Comment (lsf37) [reply lib/test/Corres_Test.thy:290]: obtained is much better, thanks!

File: lib/test/Corres_Test.thy (hunk 22 above)
Comment (lsf37) [reply lib/test/Corres_Test.thy:292]: rephrased it a bit more

**Comment by lsf37** [comment]
> Good examples, definitely very helpful. There's some confusion about which commit some changes are in, and I left a bit of feedback on the text in comments along with begging for a review of `just` frequency. 

I re-read the text and I wholeheartedly apologise for the unjust frequency of `just`. Not sure what was riding me, but it really was way too much. Frequency is drastically reduced now.

> Might also make sense to use sections in the test file, I find it hard to tell in places what is a section header and what isn't.

Yes, I should probably do that. Will try it out.
